US06849761B2
5-({[4-(Aminosulfonyl)benzyl]amino}methyl)-6-methoxy-2-naphthoic acid
The title compound was prepared as a white solid (0.245 g, 34% for two steps) from 6-methoxy-5-formyl-2-naphthoic acid methyl ester using p-aminomethyl-benzenesulfonamide hydrochloride and a procedure similar to steps 3-4 of Example 1, mp 283-285° C. (decomp.); 1H NMR (DMSO-d6) δ3.94 (s, 3H), 4.37 (s, 2H), 4.53 (s, 2H), 7.46 (s, 2H), 7.60 (d, J=9.2 Hz, 1H), 7.77 (d, J=8.2 Hz, 2H), 7.90 (d, J=8.2 Hz, 2H), 8.01 (dd, J=1.4, 9.0 Hz, 1H), 8.16 (d, J=9.0 Hz, 1H), 8.28 (d, J=9.2 Hz, 1H), 8.61 (s, 1H), 9.25-9.46 (bs, 2H), 12.78-13.18 (bs, 1H); IR (neat) 2380-3300, 1670, 1625, 1600, 1485, 1470, 1455, 1430, 1420, 1325, 1310, 1285, 1265, 1220, 1185, 1165, 1105, and 1040 cm−1; mass spectrum [(+) ESI], m/z401 (M+H)+ and [(−) ESI], m/z 399 (M−H)−; Anal. Calcd. for C20H20N2O5S.HCl: C, 54.98; H, 4.84; N, 6.41, Found: C, 54.60; H, 4.93; N, 6.17.

reactant | 6-methoxy-5-formyl-2-naphthoic acid methyl ester | COC(=O)C1=CC2=CC=C(C(=C2C=C1)C=O)OC | C14H12O4
reactant | p-aminomethyl-benzenesulfonamide hydrochloride | Cl.NCC1=CC=C(C=C1)S(=O)(=O)N
product | 5-({[4-(Aminosulfonyl)benzyl]amino}methyl)-6-methoxy-2-naphthoic acid | NS(=O)(=O)C1=CC=C(CNCC2=C3C=CC(=CC3=CC=C2OC)C(=O)O)C=C1 | C20H20N2O5S
